US08859580B2
3-Carboxymethyl-5-methoxy-indan-1-yl-ammonium chloride
5-Methoxy-3-methoxycarbonylmethyl-indan-1-yl-ammonium chloride (12.5 g) dissolved in 2 M hydrochloric acid (120 mL) is stirred at reflux temperature for 3 h. Then, the solvent is removed and the residue is azeotropically dried using toluene and further purified by washing with diisopropylether. The product is dried at 50° C.

reactant | 5-Methoxy-3-methoxycarbonylmethyl-indan-1-yl-ammonium chloride | 12.5 g | [Cl-].COC=1C=C2C(CC(C2=CC1)[NH3+])CC(=O)OC
solvent | hydrochloric acid | 2 M, 120 mL | Cl | ClH
product | 3-Carboxymethyl-5-methoxy-indan-1-yl-ammonium chloride | [Cl-].C(=O)(O)CC1CC(C2=CC=C(C=C12)OC)[NH3+] | InChI=1S/C12H15NO3.ClH/c1-16-8-2-3-9-10(6-8)7(4-11(9)13)5-12(14)15;/h2-3,6-7,11H,4-5,13H2,1H3,(H,14,15);1H
